.subckt PIcontrol 1 2 3
XU1 1 2 N001 subtract
XU2 N001 N002 gain K=0.4
XU3 N001 N004 gain K=50000
XU4 N004 N003 integral
XU5 N002 N003 3 adder
.lib pwr-ctrl.lib
.ends PIcontrol