.subckt Yn3Phase OUTA OUTB OUTC N
V1 OUTA N SINE({os} {A} {f_Hz} 0 0 {ph_deg})
V2 OUTB N SINE({os} {A} {f_Hz} 0 0 {ph_deg-120})
V3 OUTC N SINE({os} {A} {f_Hz} 0 0 {ph_deg+120})
.ends Yn3Phase

.subckt ClarkeTrans INA INB INC alpha beta gamma N
B1 alpha N V=(2/3)*V(INA)-(1/3)*V(INB)-(1/3)*V(INC)
B2 beta N V=(1/3)*sqrt(3)*V(INB)-(1/3)*sqrt(3)*V(INC)
B3 gamma N V=(1/3)*(V(INA)+V(INB)+V(INC))
.ends ClarkeTrans

.subckt ParkTrans a b c theta d q zero
B1 d 0 V=(2/3)*(cos(V(theta))*V(a)+cos(V(theta)-shift)*V(b)+cos(V(theta)+shift)*V(c))
B2 q 0 V=(2/3)*(-sin(V(theta))*V(a)-sin(V(theta)-shift)*V(b)-sin(V(theta)+shift)*V(c))
B3 zero 0 V=(1/3)*(V(a)+V(b)+V(c))
.param pi=3.14159265359
.param shift=(2*pi/3)
.ends park

.subckt integral 1 2
B1 N001 0 V={V(1)}
B2 2 0 V={I(L1)}
L1 N002 0 1
R1 N002 N001 1p
.end integral

.subckt gain 1 2
B1 2 0 V={K*V(1)}
.end gain

.subckt adder 1 2 3
B1 3 0 V=V(1)+V(2) 
.end adder

.subckt triangle 1
V1 1 0 PULSE({Vc} 0 0 {Tc/2} {Tc/2} 0 {Tc})
.ends triangle

.subckt subtract 1 2 3
B1 3 0 V=V(1)-V(2)
.end subtract

.subckt compare 1 2 3
B1 3 0 V=if(V(1)>V(2), {Von}, 0)
.ends compare

.subckt alphabetadq alpha beta zero theta q
B2 q 0 V=-1*V(alpha)*sin(V(theta))+V(beta)*cos(V(theta))+0*V(zero)
.ends alphabetadq
